US08802864B2
b) 4-[4-bromo-2-(trifluoromethyl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
To a round bottom flask were added N-[4-bromo-2-(trifluoromethyl)phenyl]-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide (1025 mg, 2.148 mmol) and potassium carbonate (1203 mg, 8.70 mmol). The mixture was suspended in water (100 mL) and refluxed for 16 h at 115° C. Analysis by LCMS indicated consumption of starting material and formation of desired product and by-products related to the starting material. The solution was neutralized to pH=7 with 1N aq HCl and diluted with 150 mL of ethyl acetate. The aqueous phase was extracted with ethyl acetate (3×) and the combined organic layers were washed with brine, dried over sodium sulfate, and concentrated in vacuo. This material was purified by silica gel chromatography (0-20% isopropanol/ethyl acetate), to afford the title product (177 mg, 18%). MS(ES)+ m/e 459.2, 461.2 M+H]+.

reactant | N-[4-bromo-2-(trifluoromethyl)phenyl]-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide | 2.148 mmol, 1025 mg | BrC1=CC(=C(C=C1)NC(=O)NNC(C[C@H]1CN(CC1)C(=O)C1CC1)=O)C(F)(F)F | C18H20BrF3N4O3
reactant | potassium carbonate | 8.70 mmol, 1203 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 100 mL | O | H2O
product | 4-[4-bromo-2-(trifluoromethyl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 177 mg, 18% | BrC1=CC(=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)C(F)(F)F | C18H18BrF3N4O2
